US06479487B1
2-Chloro-6-(3,4,5-trimethoxybenzylamino)-9-cyclopentylpurine is prepared from 2,6-dichloro-9-cyclopentylpurine, 3,4,5-trimethoxybenzylamine, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | 3,4,5-trimethoxybenzylamine | COC=1C=C(CN)C=C(C1OC)OC | C10H15NO3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-(3,4,5-trimethoxybenzylamino)-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NCC1=CC(=C(C(=C1)OC)OC)OC | C20H24ClN5O3
